US05900426
A solution of 1 g of 6-hydroxybenzothiazole in dimethyl-formamide was dropped into a solution of 0.4 g of 60% sodium hydride in 3 ml of dimethylformamide at 0° C. After the mixture was stirred at room temperature for 1 hour, 0.75 ml of (2-methoxyethoxy)methylchloride was added dropwise into the mixture and the mixture was stirred for another 1 hour. NaCl was added to the reaction mixture and the mixture was extracted with ether. The extracts were dried over sodium sulfate and concentrated, and then the residue was purified by column-chromatography (hexane : ethyl acetate=5:1) to give 0.6 g of 6-[(2-methoxyethoxy)-methoxy]benzothiazole. 1 1H-NMR(CDCl3): 3.38(s,3H), 3.58(m,2H), 3.87(m,2H), 7.22(dd,J=8.8,2.4 Hz,1H), 7.66(d,J=2.4 Hz,1H), 8.82(d,J=8.8 Hz,1H), 8.86(s,1H) IR(neat) cm-1 : 2927, 1674, 1475, 1230, 1103, 999 MS(EI) m/z: 239(M+), 89, 59

reactant | 6-hydroxybenzothiazole | 1 g | OC1=CC2=C(N=CS2)C=C1 | C7H5NOS
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | (2-methoxyethoxy)methylchloride | 0.75 ml | COCCOCCl | C4H9ClO2
reactant | NaCl | [Na+].[Cl-]
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-[(2-methoxyethoxy)-methoxy]benzothiazole | 0.6 g | COCCOCOC1=CC2=C(N=CS2)C=C1 | C11H13NO3S
